Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Epigastric Pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ woman presents with gradual onset epigastric pain. 
Pain began at 8AM while resting the day of admission and has 
progressively worsened. Described as "gas-like, cramping" pain, 
constant, radiating to chest and back. Pain is worse with 
eating, improved somewhat with morphine. Associated nausea and 
dry heaves. No diaphoresis, SOB, jaw or arm pain. No 
diarrhea/constipation, melena/hematochezia. She has chronic 
post-nasal drip and cough, but denies fever, chills, change in 
sputum production, hemoptysis. No recent travel, sick contacts, 
or new/usual food intake. She has never had this pain before. 
She takes NSAIDS (Aleve) several times per week, last taken the 
morning of admission.  
She initially presented to ___ where her ECG showed ST 
depressions inferiorly (unchanged from baseline) and new ST 
depressions laterally. Repeat ECG when pain free showed 
resolution of ST depressions. ___ labs; WBC 13.5, HCT 
39.6, Plt 359, Na 135, K 3.5, BUN 16, Cr 0.7, ALT 47, AST 44, TB 
0.4, AP 100, lipase 42. Abdominal ultrasound showed no acute 
abnormality. CT-A torso showed small area of right lung collapse 
from either a small mass with post-obstruction or small 
pneumonia. She received levofloxacin, zofran and full dose 
aspirin. She was transferred to ___ for further evaluation and 
management.  
In the ED, initial VS were: 99.4 51 90/38 14 98% 2L. Labs 
notable for trop <0.01. She was seen by cardiology who 
recommended admission to ___ for ___. She received morphine 
for pain and was started on a heparin drip. Vitals prior to 
transfer: 97.9 69 109/53 12 98% RA.  
 
On arrival to the floor, she has persistent epigastric pain and 
wishes she could vomit.  
 
REVIEW OF SYSTEMS:  
(+) per HPI, she has chronic cough and SOB after climbing stairs 
 
(-) fever, chills, night sweats, headache, vision changes, sore 
throat, dysuria, hematuria. denies history of heart disease, 
stroke, thrombosis, syncope.  
 

 
Past Medical History:
Total Hip Replacement ___ years ago 
 
Social History:
___
Family History:
father: HTN  
mother: DM2 and colon cancer age ___  
sister: ETOH hepatitis  
brother: ___ lymphoma 
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
VS - ___ 108/55 68 18 96%RA  
GENERAL - lying in bed, at times wincing in pain, appropriate  
HEENT - PERRLA, EOMI, sclerae anicteric, MM dry, OP clear  
NECK - supple, no LAD, no JVD, no carotid bruits  
LUNGS - slightly decreased breath sounds right base, no 
crackles/rhonchi/wheezing, not using accessory muscles  
HEART - RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout 

PHYSICAL EXAM ON DISCHARGE:
VS -  T98.6 BP111/68 P 81 RR 18 POx 97%RA  
GENERAL - lying in bed, comfortable, NAD, mood appropriate, 
cooperative, pleasant.  
HEENT - PERRLA, EOMI, sclerae anicteric, MM dry, OP clear  
NECK - supple, no LAD, no JVD, no carotid bruits  
LUNGS - slightly decreased breath sounds right base, no 
crackles/rhonchi/wheezing, not using accessory muscles 
HEART - RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, soft, mildly tender to palpation, mild tympany, 
no masses or HSM, no rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions  
NEURO - awake, A&Ox3, CNs II-XII grossly intact
 
Pertinent Results:
LABS:

___ 08:00AM BLOOD WBC-10.2 RBC-3.24* Hgb-10.9* Hct-32.4* 
MCV-100* MCH-33.5* MCHC-33.6 RDW-12.0 Plt ___
___ 08:00AM BLOOD Neuts-63.1 ___ Monos-6.5 Eos-0.5 
Baso-0.1
___ 08:00AM BLOOD Plt ___
___ 08:00AM BLOOD Glucose-85 UreaN-14 Creat-0.7 Na-139 
K-4.5 Cl-108 HCO3-21* AnGap-15
___ 08:00AM BLOOD ALT-33 AST-25 LD(LDH)-143 CK(CPK)-46 
AlkPhos-68 TotBili-0.2
___ 01:20PM BLOOD CK(CPK)-50
___ 12:10AM BLOOD cTropnT-<0.01
___ 08:00AM BLOOD CK-MB-2 cTropnT-<0.01
___ 01:20PM BLOOD CK-MB-2 cTropnT-<0.01
___ 12:10AM BLOOD CK-MB-2
___ 08:00AM BLOOD Calcium-8.4 Phos-2.9 Mg-1.9
___ 02:14PM URINE Color-Straw Appear-Clear Sp ___
___ 11:55PM URINE Color-Straw Appear-Clear Sp ___
___ 02:14PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 11:55PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 11:55PM URINE RBC-2 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 11:55PM URINE Mucous-RARE

MICROBIOLOGY:
H. PYLORI ___: PENDING
BLOOD CULTURES X 2 (___): PENDING

IMAGING:
CXR ___
IMPRESSION:  PA and lateral chest compared to ___: 
New region of peribronchial opacification in the anterior medial 
basal segment of the right lower lobe is consistent with 
pneumonia.  There may be a second smaller region in the 
posterior basal segment of one of the lower lobes, probably also 
the right.  Severe hyperinflation is probably due to emphysema.  
Tiny right pleural effusion is clinically insignificant.  Upper 
lungs are grossly clear. 

 
Abdominal U/S ___:
      
     FINDINGS:
      
     Liver is top normal in size measuring 16.3 cm.  No focal 
lesion seen.
     Normal gallbladder.  No gallstones.  No dilated bile duct, 
the common
     duct measures 3 mm in diameter.  Spleen is normal in size.  
Right
     kidney measures 10.9 cm and the left kidney 10.4 cm.  No 
renal stones
     or hydronephrosis is seen.  In the mid portion of the right 
kidney
     there is a 1.3 cm simple appearing cyst.  This corresponds 
to the CT
     finding where the hounsfield units of the cyst was slightly 
higher
     which may represent proteinaceous contents.  Aorta is 
normal in
     caliber measuring 2.1 cm in its maximum diameter.  No 
ascites was
     seen.
      
     CONCLUSION:
      
     THE UPPER ABDOMINAL ULTRASOUND IS WITHIN NORMAL LIMITS 
EXCEPT FOR A
     SIMPLE CYST OF THE RIGHT KIDNEY.  PANCREAS COULD NOT BE 
FULLY ASSESSED
     BEING OBSCURED BY OVERLYING BOWEL GAS ESPECIALLY IN THE 
REGION OF THE
     BODY AND TAIL.  

CHEST PA AND LATERAL ___:
      
     CLINICAL HISTORY:   Cough.
      
     TECHNIQUE:  Two views of chest.
      
     COMPARISON:  ___.  
      
     FINDINGS:
      
     There is a stable appearance of the cardiac and mediastinal
     silhouette.  There is parenchymal opacity in the right 
infrahilar area
     seen on both the frontal and lateral views.  There is no 
effusions. 
     There is no pneumothorax.  Emphysematous changes are 
present.  No
     acute bone finding.
      
     IMPRESSION:
      
     RIGHT INFRAHILAR OPACITY 
      CONCERNING FOR PNEUMONIA IN RIGHT LOWER LOBE.  REPEAT EXAM 
FOLLOWING
     TREATMENT RECOMMENDED TO DOCUMENT RESOLUTION.
    
CT TORSO WITH AND WITHOUT CONTRAST ___:
          
     FINDINGS:
      
     Non contrast images do not show evidence for hemorrhage.  
Following
     injection of contrast normal opacification of the aorta is 
seen.  No
     evidence for aortic aneurysm or dissection.  In the chest 
note is made
     of a patchy perihilar density which may represent 
consolidation or
     atelectasis.  The appearance is also demarcated by an 
inferior
     accessory fissure in this region.  No evidence for 
pulmonary embolism
     was seen.  No pleural effusions.  No significant adenopathy 
in the
     mediastinum.  
      
     ABDOMEN AND PELVIS:  Liver, spleen, gallbladder, bile 
ducts, adrenals
     and the kidneys appear normal.  Slight prominence of the 
pancreatic
     duct noted but within normal limits.  There are two left 
renal
     arteries.  Calcified plaques are noted in the lower 
abdominal aorta
     and the iliac arteries.  No aneurysm.  No dissection.  
Normal appendix
     is identified in the right lower quadrant.  Metallic 
hardware is noted
     in the left hip.  
      
     Bone windows show degenerative changes in the lumbar spine.
      
     CONCLUSION:
      
     NO AORTIC ANEURYSM OR DISSECTION. NO OBVIOUS PULMONARY 
EMBOLISM. 
     PATCHY DENSITY NOTED IN THE RIGHT INFRAHILAR REGION LIKELY
     REPRESENTING PNEUMONIA ALTHOUGH AN UNDERLYING MASS LESION 
CANNOT BE
     EXCLUDED.  FOLLOW-UP CT SCAN IN 8 WEEKS TIME IS 
RECOMMENDED.  NO ACUTE
     ABNORMALITIES IDENTIFIED IN THE ABDOMEN.  
      

 
Brief Hospital Course:
___ woman presents with epigastric pain and bloating 
sensation admitted to ___ for rule out MI.  

#Epigastric pain: ST depressions were noted inferiorly unchanged 
from baseline ECG in ___. 1mm ST depressions in leads V5, V6 
initially, although overall these are very subtle and relatively 
unremarkable given evidence of depressions in those leads in 
___ on close inspection. Repeat EKGs illustrated resolution of 
findings. Patient was placed on heparin drip, given aspirin 
325mg, and atorvastatin 80mg. Heparin gtt was discontinued when 
3 sets of cardiac enzymes came back negative. Patient reportedly 
consumed a bad hamburger ___ night prior to onset of 
symptoms. Symptoms likely GERD or gastroenteritis related given 
worsening pain with eating and associated nausea. She continued 
to complain of colicky gas pain which mildly improved with 
maalox. CT-torso and abdominal ultrasound were unremarkable for 
intrabdominal pathology. Liver enzymes were mildly elevated on 
admission but normalized prior to discharge. Lipase was normal. 
Concern over PUD prompted initiation of PPI. Zofran was given 
for nausea relief. H. pylori antibody was drawn. Right sided 
pain could be secondary to pneumonia noted radiography (see 
below). Patient was discharged on mylanta, pantoprazole, and 
instructed to discontinue naproxen over concern for PUD.

#Community acquired pneumonia: Noted on CT and chest x-ray. CT 
chest showed a small area of right lung collapse that could 
represent pneumonia vs small mass with post-obstruction. Patient 
with cough for one month but afebrile and normal WBC. Patient 
was initiated on levofloxacin 750mg daily for 7 days for empiric 
CAP treatment.  
 
#Right lung abnormality: CT at ___ shows a patchy density in 
RLL which could represent pneumonia or lung collapse secondary 
to small mass. She is at risk for pulmonary malignancy given 50 
pack year history. Could also represent atelectasis. She has 
underlying obstructive disease (PFTs FEV1 73% in ___ with 
chronic cough. Clinical exam consistent with COPD.  Follow up 
imaging in 8 weeks is recommended for further evaluation of the 
area. Patient instructed to make an appointment with pulmonology 
to assess PFTs and make formal diagnosis of COPD.

#Transaminitis: Will need to repeat, if still elevated would 
recommend sending hepatitis serologies and iron panel as initial 
workup.

TRANSITIONAL ISSUES:
[ ]Patient had negative tropinin's x 3 and normal EKGs
[ ]Patient will benefit from outpatient stress testing
[ ]Patient's pain likely secondary to gastrointestinal 
irritation given history of eating a bad burger.
[ ]Patient was given Maalox, pantoprazole, and zofran with mild 
improvement in her symptoms.
[ ]Abdominal imaging was negative for hepatobiliary pathology, 
duoedenitis, and appendictis. The right kidney was noted to 
contain a simple cyst and increased echogenicity, however UA was 
clean.
[ ]H. pylori and serology will need to be followed up.
[ ]Patient noted to have right lower lobe pneumonia on CXR and 
CT torso. Patient started on 7 day course of levofloxacin.
[ ]There was a questionable patchy opacity in the right lower 
lobe which may be concerning in the setting of the patient's 
smoking history. Repeat CT chest should be performed in ___ 
months to reevaluate. 
[ ]Recommend pulmonary function testing given exam consistent 
with COPD and smoking history.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Naproxen 500 mg PO Q12H:PRN pain 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
RX *acetaminophen 650 mg 1 tablet(s) by mouth Q8hrs Disp #*30 
Tablet Refills:*0
2. Aluminum-Magnesium Hydrox.-Simethicone 30 mL PO QID:PRN 
epigastric pain 
RX *aluminum-magnesium hydroxide [Mylanta] 500 mg-500 mg/5 mL 30 
mL by mouth four times a day Disp #*1 Bottle Refills:*1
3. Levofloxacin 750 mg PO DAILY Duration: 7 Days 
RX *levofloxacin 750 mg 1 tablet(s) by mouth daily Disp #*7 
Tablet Refills:*0
4. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth Q24hrs Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Viral Gastroenteritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___:

It was a pleasure taking care of you during your hospitalization 
at ___. You had initially come to the hospital because you 
were experiencing epigastric and right sided discomfort 
radiating to your chest. You were transferred here from ___ 
over concern that you might have a heart attack. We performed 
EKGs, monitored your heart, and checked labs which did not show 
any evidence that your heart was involved. We gave you 
medications to help with acid reflux, indigestion, gas and 
bloating, and your symptoms improved a bit. All the imaging of 
your abdomen was unconcerning. We did note evidence of pneumonia 
on your lower right lung which may be contributing to your 
symptoms, and we started you on an antibiotic for this reason. 
We recommend you see a pulmonologist to evaluate your lung 
function. We recommend you stop smoking.   

We have made the following changes to your medication list:
Please START taking Mylanta 30mL by mouth foru times a day as 
needed for abdominal pain/bloating
Please START taking pantoprazole (prilosec)40mg tablet daily. 
Please START taking Levofloxacin 750mg daily for 7 days to treat 
your pneumonia.
Please START taking tylenol (acetaminophen) for pain instead of 
naproxen (aleve).
Please STOP taking naproxen (aleve) as this may predispose you 
to gastric ulcers.

Please follow-up with your primary care doctor in ___ days. We 
also recommend you schedule an appointment with a pulmonologist 
to evaluate your lung function with pulmonary function tests.
Thank you,
 
Followup Instructions:
___